US04588722
To a stirred and cooled (below 10° C.) mixture of 3.8 parts of 2-oxo-2H-1-benzopyran-3-carboxylic acid, 2.2 parts of N,N-diethylethanamine and 225 parts of trichloromethane was added dropwise a solution of 1.9 parts of methyl carbonochloridate in 75 parts of trichloromethane. Upon completion, stirring was continued for 30 minutes at room temperature. This solution was added dropwise to a stirred and cooled solution of 6.6 parts of N-[1-(2-aminoethyl)-4-piperidinyl]-1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-amine in 75 parts of trichloromethane at 5° C. The whole was stirred for 1 hour while the mixture was allowed to reach room temperature. The reaction mixture was washed successively with water, a sodium hydroxide solution 10% and again with water. The organic phase was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was converted into the (E)-2-butenedioate salt in methanol. The salt was filtered off and dried, yielding 6.6 parts (47.5%) of N-[2-[4-[[1-[(4-fluorophenyl)-methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-2-oxo-2H-1-benzopyran-3-carboxamide (E)-2-butenedioate(1:2); mp. 216.8° C. (compound 44).

reactant | 2-oxo-2H-1-benzopyran-3-carboxylic acid | O=C1OC2=C(C=C1C(=O)O)C=CC=C2 | C10H6O4
reactant | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
reactant | methyl carbonochloridate | C(OC)(=O)Cl | C2H3ClO2
reactant | N-[1-(2-aminoethyl)-4-piperidinyl]-1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-amine | NCCN1CCC(CC1)NC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2 | C21H26FN5
solvent | trichloromethane | ClC(Cl)Cl | CHCl3
product | N-[2-[4-[[1-[(4-fluorophenyl)-methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-2-oxo-2H-1-benzopyran-3-carboxamide (E)-2-butenedioate | 47.5% | C(\C=C\C(=O)O)(=O)O.FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCNC(=O)C=2C(OC1=C(C2)C=CC=C1)=O | InChI=1S/C31H30FN5O3.C4H4O4/c32-23-11-9-21(10-12-23)20-37-27-7-3-2-6-26(27)35-31(37)34-24-13-16-36(17-14-24)18-15-33-29(38)25-19-22-5-1-4-8-28(22)40-30(25)39;5-3(6)1-2-4(7)8/h1-12,19,24H,13-18,20H2,(H,33,38)(H,34,35);1-2H,(H,5,6)(H,7,8)/b;2-1+
